US06710056B2
Methyl 2-acetamido-3-[2-[(2R)-4-benzyloxycarbonyl-2-aminobutoxy]-4-cyanophenyl]acrylate hydrochloride:
5 g of methyl 2-acetamido-3-[2-[(2R)-4-benzyloxycarbonyl-2-(t-butoxycarbonylamino)butoxy]-4-cyanophenyl]acrylate was stirred in 50 ml of dioxane containing 4 M of hydrogen chloride for 2 hours. The solvent was evaporated to obtain the title compound.

reactant | methyl 2-acetamido-3-[2-[(2R)-4-benzyloxycarbonyl-2-(t-butoxycarbonylamino)butoxy]-4-cyanophenyl]acrylate | 5 g | C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OC[C@@H](CCC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C30H35N3O8
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4 M, 50 ml | O1CCOCC1 | C4H8O2
product | Methyl 2-acetamido-3-[2-[(2R)-4-benzyloxycarbonyl-2-aminobutoxy]-4-cyanophenyl]acrylate hydrochloride | Cl.C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OC[C@@H](CCC(=O)OCC1=CC=CC=C1)N | InChI=1S/C25H27N3O6.ClH/c1-17(29)28-22(25(31)32-2)13-20-9-8-19(14-26)12-23(20)33-16-21(27)10-11-24(30)34-15-18-6-4-3-5-7-18;/h3-9,12-13,21H,10-11,15-16,27H2,1-2H3,(H,28,29);1H/t21-;/m1./s1
